US08466282B2
Tert-butyl (3S,5R)-3-[[[1-(2-hydroxyethyl)-1H-benzimidazol-2-yl]carbonyl](2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
Calcium chloride (650 mg) was suspended in ethanol (80 ml) and sodium borohydride (740 mg) was added at 0° C. After stirring at 0° C. for 15 min, a solution of tert-butyl (3S,5R)-3-[[[1-(2-methoxy-2-oxoethyl)-1H-benzimidazol-2-yl]carbonyl](2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (1.15 g) in THF (80 ml) was added dropwise. After stirring at room temperature for 2 hr, the reaction mixture was diluted with 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-1:0)-ethyl acetate-methanol (85:15) was concentrated under reduced pressure to give the object product (849 mg).

reactant | Calcium chloride | 650 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 740 mg | [BH4-].[Na+]
reactant | tert-butyl (3S,5R)-3-[[[1-(2-methoxy-2-oxoethyl)-1H-benzimidazol-2-yl]carbonyl](2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 1.15 g | COC(CN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)=O | C30H43N5O7
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | Tert-butyl (3S,5R)-3-[[[1-(2-hydroxyethyl)-1H-benzimidazol-2-yl]carbonyl](2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 849 mg | OCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C29H43N5O6
